US05206240
Step B: Preparation of 1,3-Dihydro-6-nitro-1-oxo-spiro[2H-indene-2,4'-piperidine]hydrochloride
A solution of 0.216 g (0.75 mmol) 1'-acetyl-1,3-dihydro-1-oxo-6-nitrospiro[2H-indene-2,4'-piperidine] and 2 ml (6 mmol) 3N hydrochloric acid in 6 ml ethanol was heated at reflux for 18 hours. Another 0.2 ml (0.6 mmol) 3N hydrochloric acid was added and the solution was heated at reflux for 4 hours, then cooled to room temperature to give a white precipitate. The precipitate was filtered off, washed with ethanol, and dried to give 0.158 g (74%) product.

reactant | 1'-acetyl-1,3-dihydro-1-oxo-6-nitrospiro[2H-indene-2,4'-piperidine] | 0.75 mmol, 0.216 g | C(C)(=O)N1CCC2(CC1)C(C1=CC(=CC=C1C2)[N+](=O)[O-])=O | C15H16N2O4
reactant | hydrochloric acid | 6 mmol, 3N, 2 ml | Cl | ClH
reactant | hydrochloric acid | 0.6 mmol, 3N, 0.2 ml | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1,3-Dihydro-6-nitro-1-oxo-spiro[2H-indene-2,4'-piperidine]hydrochloride | 0.158 g, 74% | Cl.[N+](=O)([O-])C1=CC=C2CC3(CCNCC3)C(C2=C1)=O | InChI=1S/C13H14N2O3.ClH/c16-12-11-7-10(15(17)18)2-1-9(11)8-13(12)3-5-14-6-4-13;/h1-2,7,14H,3-6,8H2;1H
